US03997588
A solution consisting of 18.5 parts of [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium chloride in 100 parts by volume of concentrated hydrochloric acid is heated at the reflux temperature for about 36 hours, then is cooled to room temperature. The solvent is removed by distillation under reduced pressure to afford (6-chloro-2-oxohexyl)triphenylphosphonium chloride, identical with the product of Example 2.

reactant | [(tetrahydro-2H-pyran-2-ylidene)methyl]triphenylphosphonium chloride | [Cl-].O1C(CCCC1)=C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
product | (6-chloro-2-oxohexyl)triphenylphosphonium chloride | [Cl-].ClCCCCC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | InChI=1S/C24H25ClOP.ClH/c25-19-11-10-12-21(26)20-27(22-13-4-1-5-14-22,23-15-6-2-7-16-23)24-17-8-3-9-18-24;/h1-9,13-18H,10-12,19-20H2;1H/q+1;/p-1
